US04272534
A solution of 2-chloromethylpyridine hydrochloride (30 g) in ethanol (100 cc) at 60° C. is added dropwise, in the course of 15 minutes, to a suspension of thiourea (17.6 g) in boiling ethanol (100 cc). Boiling is maintained for 90 minutes and then, after cooling, the crystals which have appeared are filtered off, washed twice with ethanol (100 cc in total) and dried under reduced pressure (20 mm Hg) at a temperature of about 20° C., in the presence of potassium hydroxide pellets. 2-(Pyrid-2-ylmethyl)isothiourea dihydrochloride (41.7 g), melting at 220° C., is thus obtained.

reactant | 2-chloromethylpyridine hydrochloride | 30 g | Cl.ClCC1=NC=CC=C1
reactant | thiourea | 17.6 g | NC(=S)N | CH4N2S
solvent | ethanol | 100 cc | C(C)O | C2H6O
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | 2-(Pyrid-2-ylmethyl)isothiourea dihydrochloride | 41.7 g | Cl.Cl.N1=C(C=CC=C1)CSC(N)=N | InChI=1S/C7H9N3S.2ClH/c8-7(9)11-5-6-3-1-2-4-10-6;;/h1-4H,5H2,(H3,8,9);2*1H
